US07053107B2
6-(2-Methoxycarbonyl-phenylamino)-1-(tetrahydro-pyran-2-yl)-1H-indazole-3-carboxylic acid
To a solution of 6-(2-Methoxycarbonyl-phenylamino)-1-(tetrahydro-pyran-2-yl)-1H-indazole-3-carboxylic acid methyl ester (2.05 g, 5 mmol) in methanol (18 mL) and tetrahydrofuran (8 mL), was added a solution of sodium hydroxide (0.30 g, 7.5 mmol) in water (2.7 mL). The reaction was stirred at room temperature for 3 hours and was then neutralized with 1 N HCl to a pH of 1. The mixture was diluted with EtOAc (25 mL) and water (25 mL). After separating the layers, the aqueous layer was washed with CH2Cl2 (3×25 mL). The combined organic extracts were washed with saturated NaCl (100 mL) and then dried over Na2SO4. The solids were filtered and the liquid was concentrated to an oil. The product was crystallized from EtOAc and Hexanes to yield the desired product (1.616 g, 82%).

reactant | 6-(2-Methoxycarbonyl-phenylamino)-1-(tetrahydro-pyran-2-yl)-1H-indazole-3-carboxylic acid methyl ester | 5 mmol, 2.05 g | COC(=O)C1=NN(C2=CC(=CC=C12)NC1=C(C=CC=C1)C(=O)OC)C1OCCCC1 | C22H23N3O5
reactant | sodium hydroxide | 7.5 mmol, 0.30 g | [OH-].[Na+]
reactant | HCl | 1 N | Cl | ClH
solvent | methanol | 18 mL | CO | CH4O
solvent | tetrahydrofuran | 8 mL | O1CCCC1 | C4H8O
solvent | water | 2.7 mL | O | H2O
solvent | EtOAc | 25 mL | CCOC(=O)C | C4H8O2
solvent | water | 25 mL | O | H2O
product | 6-(2-Methoxycarbonyl-phenylamino)-1-(tetrahydro-pyran-2-yl)-1H-indazole-3-carboxylic acid | 1.616 g, 82% | COC(=O)C1=C(C=CC=C1)NC1=CC=C2C(=NN(C2=C1)C1OCCCC1)C(=O)O | C21H21N3O5
